US04959407
Over a 1.5 hour period, 145 grams (1.03 mol) of methylvinyldichlorosilane was added with stirring to a mixture under nitrogen at 0.C of 1 L of dry hexane and 293 grams (4.12 mols) of pyrrolidine. The resulting mixture was allowed to stir for about 12 hours while warming to room temperature. A solid white precipitate was filtered and washed with dry hexane under nitrogen. The solvent was removed under reduced pressure and the product was distilled giving 158 grams (73% yield) of bis(pyrrolidinyl)methylvinylsilane, having a boiling point of 50°-52° C. at less than 1 torr. There was added dropwise to 28.4 grams (135 millimoles) of bis(pyrrolidinyl) methylvinylsilane, which was stirring under nitrogen at 0° C., 26.7 grams (270 millimoles) of butylisocyanate. The reaction was stirred at 0° C. for a period of 12 hours. The mixture was then allowed to warm to room temperature over a 60 minute period. There was obtained a quantitative yield of bis(1,1-tetramethylene-3-butylureidomethylvinylsilane in the form of a clear viscous oil. Its identity was confirmed by IR and NMR. It is referred to hereinafter as the "bis(uriedo) coupler".

reactant | methylvinyldichlorosilane | 1.03 mol, 145 grams | CC=C[SiH](Cl)Cl | C3H6Cl2Si
reactant | pyrrolidine | 4.12 mols, 293 grams | N1CCCC1 | C4H9N
solvent | hexane | 1 L | CCCCCC | C6H14
product | bis(pyrrolidinyl)methylvinylsilane | 158 grams, 73% yield | N1(CCCC1)C(N1CCCC1)C=C[SiH3] | C11H22N2Si
